US07947685B2
Step 2: 3-Phenylamino-pyrazine-2-carboxylic acid (3-chloro-phenyl)-amide
The title compound, MS: m/e=325.1 (M+H+), was prepared in accordance with the general method of example 1, step 2 from 3-phenylamino-pyrazine-2-carboxylic acid methyl ester and 3-chloroaniline.

reactant | 3-phenylamino-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1NC1=CC=CC=C1 | C12H11N3O2
reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
product | 3-Phenylamino-pyrazine-2-carboxylic acid (3-chloro-phenyl)-amide | ClC=1C=C(C=CC1)NC(=O)C1=NC=CN=C1NC1=CC=CC=C1 | C17H13ClN4O
